US08193356B2
In accordance with a process described in JP-61-246183A, 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one was synthesized. To a suspension of the synthesized compound (715 mg, 3.0 mmol) in DMF (20 mL) was added sodium hydride (purity of about 60%, 120 mg, 3.0 mmol, 1.0 eq.). The mixture was stirred until no more hydrogen was generated, to obtain a solution. Then, tetrahydro-2H-pyran-4-ylacetyl chloride (1.2 eq.) was added thereto, and the mixture was stirred at a room temperature for 1 hour. To the mixture was added a saturated sodium hydrogencarbonate aqueous solution, and the resulting precipitate was separated by filtration, washed with water, and dried to give 1-phenyl-4-(tetrahydro-2H-pyran-4-ylacetoxy)-1,8-naphthyridin-2(1H)-one as a form of crystal (738 mg, yield 67%).

reactant | 4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | OC1=CC(N(C2=NC=CC=C12)C1=CC=CC=C1)=O | C14H10N2O2
reactant | sodium hydride | 3.0 mmol, 120 mg, 1.0 eq. | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | tetrahydro-2H-pyran-4-ylacetyl chloride | 1.2 eq. | O1CCC(CC1)CC(=O)Cl | C7H11ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-phenyl-4-(tetrahydro-2H-pyran-4-ylacetoxy)-1,8-naphthyridin-2(1H)-one | C1(=CC=CC=C1)N1C(C=C(C2=CC=CN=C12)OC(CC1CCOCC1)=O)=O | C21H20N2O4
